US07847101B2
Preparation 9: Synthesis of 2-Cyanomethylbenzothiazole-6-sulfonic acid amide
A suspension of 4-amino-3-mercaptobenzenesulfonamide (74 g, 208 mmol) and malononitrile (25 g, 375 mmol) in 650 mL of ethanol with 1.3 mL of conc. HCl was refluxed under argon overnight. The dark brown solids were isolated by filtration and were washed with ethanol and ether to yield approximately 30 g of the crude product. The volume of the filtrate was reduced by evaporation and the solids that precipitated were isolated by filtration to yield an additional 12 g of product. The crude material was purified by flash column chromatography eluting with CH2Cl2:MeOH:ammonia (60:20:1 mL) to yield a total of 22.2 g (35% for three steps) of the title compound as an orange powder.

reactant | 4-amino-3-mercaptobenzenesulfonamide | 208 mmol, 74 g | NC1=C(C=C(C=C1)S(=O)(=O)N)S | C6H8N2O2S2
reactant | malononitrile | 375 mmol, 25 g | C(CC#N)#N | C3H2N2
reactant | HCl | 1.3 mL | Cl | ClH
solvent | ethanol | 650 mL | C(C)O | C2H6O
product | 2-Cyanomethylbenzothiazole-6-sulfonic acid amide | 12 g | C(#N)CC=1SC2=C(N1)C=CC(=C2)S(=O)(=O)N | C9H7N3O2S2
